US07902373B2
Step B: 6-(5-Fluoro-2-hydroxyphenyl)nicotinic acid
methyl 6-(5-fluoro-2-hydroxyphenyl)nicotinate (1.47 g, 6.0 mmol) was dissolved in MeOH (35 ml) and cooled to 0° C. Lithium hydroxide (0.71 g, 30.0 mmol) was then added and the mixture stirred at 0° C. for 0.5 h. The mixture was then allowed to warm to room temperature. Additional lithium hydroxide (0.43 g, 18.0 mmol) was added and the allowed to stir at room temperature for 72 h. The mixture was then concentrated in vacuo and the resulting yellow solid dissolved in water (150 ml). Acidified to pH 1 by addition of 1 N aqueous HCl and the resulting precipitate was filtered and washed with 0.5 M aqueous HCl to afford the title compound as a yellow powder (1.15 g) (72%). 1H NMR (400 MHz, DMSO-d6) □ ppm 9.11 (1H, s), 8.42-8.28 (2H, m) 7.94-7.84 (1H, m), 7.26-7.15 (1H, m), 7.02-6.92 (1H, m). LRMS: ES m/z 234 [M+H]+.

reactant | methyl 6-(5-fluoro-2-hydroxyphenyl)nicotinate | 6.0 mmol, 1.47 g | FC=1C=CC(=C(C1)C1=NC=C(C(=O)OC)C=C1)O | C13H10FNO3
reactant | Lithium hydroxide | 30.0 mmol, 0.71 g | [OH-].[Li+]
reactant | lithium hydroxide | 18.0 mmol, 0.43 g | [OH-].[Li+]
solvent | MeOH | 35 ml | CO | CH4O
product | 6-(5-Fluoro-2-hydroxyphenyl)nicotinic acid | 1.15 g, 72% | FC=1C=CC(=C(C1)C1=NC=C(C(=O)O)C=C1)O | C12H8FNO3
